US06613781B2
Preparation of tert-Butyl 5-[(5-fluoro-1H-indol-3-yl)methyl]-3,6-dihydro-1(2H)-pyridinecarboxylate
A mixture of 5-fluoro-3-(1,2,3,6-tetrahydro-3-pyridinylmethyl)-1H-indole (0.53 g, 2.3 mmol) and di-tert-butyl dicarbonate (0.55 g, 2.5 mmol) in 1N NaOH(2.5 ml) and dioxane is stirred under nitrogen at room temperature for 18 hr, quenched with water and diluted with ethyl acetate. The organic phase is separated, washed with water and saturated NaCl, dried over MgSO4 and concentrated in vacuo. The resultant residue is purified by flash chromatography (silica gel, EtOAc/hexane: 3/7) to afford the title compound as a yellow foam, 0.46 g, mp 78-80° C., identified by NMR and mass spectral analyses.

reactant | 5-fluoro-3-(1,2,3,6-tetrahydro-3-pyridinylmethyl)-1H-indole | 2.3 mmol, 0.53 g | FC=1C=C2C(=CNC2=CC1)CC1CNCC=C1 | C14H15FN2
reactant | di-tert-butyl dicarbonate | 2.5 mmol, 0.55 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | NaOH | 1N, 2.5 ml | [OH-].[Na+]
solvent | dioxane | O1CCOCC1 | C4H8O2
product | tert-Butyl 5-[(5-fluoro-1H-indol-3-yl)methyl]-3,6-dihydro-1(2H)-pyridinecarboxylate | FC=1C=C2C(=CNC2=CC1)CC1=CCCN(C1)C(=O)OC(C)(C)C | C19H23FN2O2
